US08222246B2
b) [3-Butyl-5-([E]-styryl)-isoxazol-4-yl]-methanol
To a solution of 3-butyl-5-([E]-styryl)-isoxazole-4-carboxylic acid (7.0 g, 25.8 mmol) and triethylamine (3.8 mL, 27.0 mmol) in THF (30 mL) was added at 0° C. ethyl chloroformate (2.6 mL, 27.0 mmol). After 1 h the triethylamine hydrochloride salt was filtered off and washed with a small amount of THF. The filtrate was concentrated, the residue taken up in ethanol (70 mL) and added to a solution of sodium borohydride (2.4 g, 63.4 mmol) in water (35 mL) at 0° C. After stirring at room temperature for 2.5 days, the reaction was quenched with aqueous sodium hydroxyde (1 M, 40 mL) and extracted twice with tert-butylmethylether. The combined phases were washed with brine, dried over sodium sulfate and filtered. The filtrate was concentrated to a yellow oil and purified by flash chromatography (silica, dichloromethane:methanol 100:0 to 97:3) to afford the title compound (6.9 g, 98%) as an orange oil. MS: m/e=258.1 [M+H]+.

reactant | 3-butyl-5-([E]-styryl)-isoxazole-4-carboxylic acid | 25.8 mmol, 7.0 g | C(CCC)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C16H17NO3
reactant | triethylamine | 27.0 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 27.0 mmol, 2.6 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 63.4 mmol, 2.4 g | [BH4-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 35 mL | O | H2O
product | [3-Butyl-5-([E]-styryl)-isoxazol-4-yl]-methanol | 6.9 g, 98% | C(CCC)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C16H19NO2
